US06331549B1
1.85 g (5.35 mmol) of (+)-2-ethyl-3-methyl-8-(1(S)-hydroxy-2-[tert-butyldimethylsilyloxy]ethyl)-quinoline, 65 ml of ethyl ether and 1.33 ml (9.6 mmol) of triethylamine are introduced into a 250 ml round-bottomed flask. The mixture is cooled to −30° C. on a bath of cardice in acetone and 0.67 g (8.53 mmol) of mesyl chloride is added. The cooling bath is removed and the reaction mixture is allowed to warm to room temperature over 30 minutes. 100 ml of water are added and the resulting mixture is extracted with ethyl ether (3×50 ml). The organic phases are combined, dried over magnesium sulphate and concentrated. A portion of the residue (0.8 g of the 2.5 g obtained) is transferred, without further purification, into a 50 ml three-necked flask fitted with a condenser. 2.5 ml (34.6 mmol) of diethylamine and 3 ml of chloroform are added and this mixture is refluxed for 16 hours. The reaction mixture is cooled to room temperature and concentrated under vacuum, 50 ml of water are added and the resulting mixture is extracted with ethyl ether (3×30 ml). The organic phases are combined, dried over magnesium sulphate and concentrated under vacuum. The residue is purified by chromatography on a column of silica (elution solvent: 10% methanol in dichloromethane). 0.45 g (yield: 60%) of (+)-2-ethyl-3-methyl-8-(1(R)-diethylamino-2-[tert-butyldimethylsilyloxy]-ethyl)quinoline is obtained in the form of an oil.

reactant | (+)-2-ethyl-3-methyl-8-(1(S)-hydroxy-2-[tert-butyldimethylsilyloxy]ethyl)-quinoline | 5.35 mmol, 1.85 g | C(C)C1=NC2=C(C=CC=C2C=C1C)[C@@H](CO[Si](C)(C)C(C)(C)C)O | C20H31NO2Si
reactant | triethylamine | 9.6 mmol, 1.33 ml | C(C)N(CC)CC | C6H15N
reactant | cardice | C(=O)=O | CO2
reactant | mesyl chloride | 8.53 mmol, 0.67 g | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | diethylamine | 34.6 mmol, 2.5 ml | C(C)NCC | C4H11N
solvent | acetone | CC(=O)C | C3H6O
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl ether | 65 ml | C(C)OCC | C4H10O
product | (+)-2-ethyl-3-methyl-8-(1(R)-diethylamino-2-[tert-butyldimethylsilyloxy]-ethyl)quinoline | 0.45 g, yield: 60% | C(C)C1=NC2=C(C=CC=C2C=C1C)[C@H](CO[Si](C)(C)C(C)(C)C)N(CC)CC | C24H40N2OSi
